US06114391
Preparation of (R)-3-hydroxy-2-(3-phenylpropylamino)propanamide (CHF 2679)
D-Serinamide (0.038 moles, 4 g) and 3-phenylpropanal (0.038 moles, 5.1 g) are dissolved in methanol (400 ml) in a Parr bottle and hydrogenated in the presence of 10% Pd/C (3 g) at 40 psi, until hydrogen absorption ceases. The catalyst is filtered off and the solution is evaporated to dryness under vacuum, taken up in ethyl acetate (300 ml) and washed with water (2×200 ml). The organic phase is dried and dissolved in warm ethyl ether (300 ml) to precipitate the product as a white solid by slow evaporation of the solvent at r.t. Yield: 3.8 g (45%)--m.p.=76-78° C. [α]589 (c=1, methanol)=+13.2°

reactant | D-Serinamide | 0.038 moles, 4 g | N[C@H](CO)C(=O)N | C3H8N2O2
reactant | 3-phenylpropanal | 0.038 moles, 5.1 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | (R)-3-hydroxy-2-(3-phenylpropylamino)propanamide | OC[C@H](C(=O)N)NCCCC1=CC=CC=C1 | C12H18N2O2
